US07157487B2
To methyl 1-acetylindazole-3-carboxylate (22.3 g, 0.10 mol) were added sodium hydroxide (8.18 g, 0.20 mol) and water (640 ml) and the resulting mixture was stirred at 60 to 70° C. for 6.5 hours. The reaction mixture was poured in concentrated HCl (30 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give indazole-3-carboxylic acid (17.6 g, 100%) as a pale yellow solid.

reactant | methyl 1-acetylindazole-3-carboxylate | 0.10 mol, 22.3 g | C(C)(=O)N1N=C(C2=CC=CC=C12)C(=O)OC | C11H10N2O3
reactant | sodium hydroxide | 0.20 mol, 8.18 g | [OH-].[Na+]
reactant | water | 640 ml | O | H2O
solvent | HCl | 30 ml | Cl | ClH
product | indazole-3-carboxylic acid | 17.6 g, 100% | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
